US03989829
To a solution of 0.3g of 2-(β-vinyloxyethyl)amino-5-chlorobenzophenone in 20 ml of dry methylene chloride is added 0.27g of oxazolidin-2,5-dione. To the mixture is added 20 ml of etheral hydrogen chloride under cooling. The mixture is allowed to stand at room temperature with occasional stirring. The reaction mixture is poured into water, basified with aqueous ammonia and extracted with methylene chloride. The extracts are combined and dried over sodium sulfate, and the solvent is removed under reduced pressure. The residue is dissolved in ether and treated with ethanolic hydrogen chloride to give 1-(β-vinyloxyethyl)-5-phenyl-7-chloro-1,3-dihydro-2H-1,4-benzodiazepin-2-one hydrochloride, m.p. 213° - 215° C (dec). Recrystallization from isopropanolchloroform gives colorless prisms, m.p. 216° - 218° C (dec.).

reactant | 2-(β-vinyloxyethyl)amino-5-chlorobenzophenone | 0.3g | C(=C)OCCNC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C17H16ClNO2
reactant | oxazolidin-2,5-dione | 0.27g | O1C(NCC1=O)=O | C3H3NO3
reactant | hydrogen chloride | 20 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-(β-vinyloxyethyl)-5-phenyl-7-chloro-1,3-dihydro-2H-1,4-benzodiazepin-2-one hydrochloride | Cl.C(=C)OCCN1C(CN=C(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2)=O | InChI=1S/C19H17ClN2O2.ClH/c1-2-24-11-10-22-17-9-8-15(20)12-16(17)19(21-13-18(22)23)14-6-4-3-5-7-14;/h2-9,12H,1,10-11,13H2;1H
